US07855297B2
By the reaction and treatment in the same manner as in Example 12 using 1,2,3,4-tetrahydronaphthalene-1-carboxylic acid (0.7 g) and [(5-ethylthiophen-2-yl)methyl](4-isopropylphenyl)amine (1.04 g) as starting materials, N-[(5-ethylthiophen-2-yl) methyl]-N-(4-isopropylphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.18 g) was obtained.

reactant | 1,2,3,4-tetrahydronaphthalene-1-carboxylic acid | 0.7 g | C1(CCCC2=CC=CC=C12)C(=O)O | C11H12O2
reactant | [(5-ethylthiophen-2-yl)methyl](4-isopropylphenyl)amine | 1.04 g | C(C)C1=CC=C(S1)CNC1=CC=C(C=C1)C(C)C | C16H21NS
product | N-[(5-ethylthiophen-2-yl) methyl]-N-(4-isopropylphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.18 g | C(C)C1=CC=C(S1)CN(C(=O)C1CCCC2=CC=CC=C12)C1=CC=C(C=C1)C(C)C | C27H31NOS
